US08440689B2
tert-Butyl 4-(6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-7-yl)-1H-pyrazole-1-carboxylate
To an oven dried vial was added tert-butyl (1S,2R)-2-(7-iodo-3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate (40 mg, 0.069 mmol), tert-butyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate (30.6 mg, 0.104 mmol), and sodium carbonate (0.104 mL, 0.208 mmol) in DMF (1 mL). The resulting tan mixture was degassed 15 min. Bis(triphenylphosphine) palladium(II) chloride (4.86 mg, 6.93 μmol) was added and the mixture was degassed an additional 5 min. The vial was capped and was heated at 80° C. for 12 h. The reaction mixture was diluted with EtOAc (10 mL) and washed with water (5 mL) and brine (5 mL). The organic layer was collected, dried with Na2SO4 and concentrated to give a brown residue, which was used without further purification (55 mg). LCMS indicated the desired mass less one of the Boc protecting groups. [M+H-Boc] calc'd for C33H43N7O5, 518. found, 518.

reactant | tert-butyl (1S,2R)-2-(7-iodo-3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate | 0.069 mmol, 40 mg | IC=1C2=C(C(=NC1N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)NC=1C=C(C=CC1)C)C(NC2)=O | C25H32IN5O3
reactant | tert-butyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate | 0.104 mmol, 30.6 mg | CC1(OB(OC1(C)C)C1=NN(C=C1)C(=O)OC(C)(C)C)C | C14H23BN2O4
reactant | sodium carbonate | 0.208 mmol, 0.104 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | Bis(triphenylphosphine) palladium(II) chloride | 6.93 μmol, 4.86 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | tert-Butyl 4-(6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-7-yl)-1H-pyrazole-1-carboxylate | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)NC=1C=C(C=CC1)C)C(NC2)=O)C=2C=NN(C2)C(=O)OC(C)(C)C | C33H43N7O5
